US05041455
B. 3-(4-morpholino-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide
A mixture of methyl iodide (0.5 ml, 8 mmol) and 3-(4-morpholino-1,2,5-thiadiazol-3-yl)pyridine (680 mg, 2.7 mmol) in acetone (5 ml) was stirred at room temperature for 18 h. The title compound precipitated from the solution and was collected by filtration to yield 1.0 g (94%).

reactant | methyl iodide | 8 mmol, 0.5 ml | CI | CH3I
reactant | 3-(4-morpholino-1,2,5-thiadiazol-3-yl)pyridine | 2.7 mmol, 680 mg | O1CCN(CC1)C=1C(=NSN1)C=1C=NC=CC1 | C11H12N4OS
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 3-(4-morpholino-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide | [I-].O1CCN(CC1)C=1C(=NSN1)C=1C=[N+](C=CC1)C | InChI=1S/C12H15N4OS.HI/c1-15-4-2-3-10(9-15)11-12(14-18-13-11)16-5-7-17-8-6-16;/h2-4,9H,5-8H2,1H3;1H/q+1;/p-1
